US07807691B2
[4-(3-Methylsulfanyl-phenyl)-4-oxo-butyl]-carbamic acid tert-butyl ester
Cool a solution of 3-bromothioanisole (10.68 g, 52.6 mmol) in tetrahydrofuran (250 mL) to −78° C., and add n-butyllithium (2.5 M in hexanes, 25.9 mL, 64.8 mmol) over 25 min. Stir the reaction at −78° C. for 1.25 h, then slowly add a solution of 1-(tert-butoxycarbonyl)-2-pyrrolidinone (7.50 g, 40.5 mmol) in tetrahydrofuran (100 mL). Stir the reaction for 2 h at −78° C., then add saturated aqueous ammonium chloride (100 mL). Upon warming to room temperature, add water (200 mL), and extract the reaction with dichloromethane (3×300 mL). Combine the organic extracts and dry over magnesium sulfate, filter, and evaporate under reduced pressure to afford a crude mixture (14.91 g). Purify the crude mixture by flash chromatography (330 g RediSep silica gel column, gradient from 0:100 to 30:70 ethyl acetate:hexanes) to provide slightly impure product (10.34 g, 83%), which is used without further purification. MS (APCI+): 210 [C16H23NO3S—C5H8O2+H]+; 1H NMR (300 MHz, CDCl3): δ 7.81-7.82 (m, 1H), 7.67-7.71 (m, 1H), 7.41-7.45 (m, 1H), 7.34-7.39 (m, 1H), 4.64 (br s, 1H), 3.17-3.26 (m, 2H), 3.00 (t, J=7.1 Hz, 2H), 2.52 (s, 3H), 1.93 (quintet, J=7.0 Hz, 2H), 1.42 (s, 9H).

reactant | 3-bromothioanisole | 52.6 mmol, 10.68 g | BrC=1C=C(C=CC1)SC | C7H7BrS
reactant | n-butyllithium | 64.8 mmol, 2.5 M, 25.9 mL | C(CCC)[Li]
reactant | 1-(tert-butoxycarbonyl)-2-pyrrolidinone | 40.5 mmol, 7.50 g | C(C)(C)(C)OC(=O)N1C(CCC1)=O | C9H15NO3
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | [4-(3-Methylsulfanyl-phenyl)-4-oxo-butyl]-carbamic acid tert-butyl ester | 10.34 g, 83% | C(C)(C)(C)OC(NCCCC(=O)C1=CC(=CC=C1)SC)=O | C16H23NO3S
